US07713994B2
(4Z)-6-Bromo-4-{[4-(2-morpholin-4-ylethyl)piperazin-1-yl]methylene}isoquinoline-1,3(2H,4H)-dione
A mixture of 6-bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (200 mg, 0.709 mmol), 2-morpholinylethylpiperazine (141.3 mg, 0.709 mmol) in 1 mL of N,N-dimethylformamide is stirred at room temperature for 15 min. After cooling in the refrigerator, the precipitate is collected, and washed with N,N-dimethylformamide (DMF) and ether to give 64 mg (20%) of yellow solid mp 156-156.5° C.; HRMS (ESI) m/z 449 (M+H)+1.

reactant | 6-bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.709 mmol, 200 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | 2-morpholinylethylpiperazine | 0.709 mmol, 141.3 mg | N1(CCOCC1)CCN1CCNCC1 | C10H21N3O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-Bromo-4-{[4-(2-morpholin-4-ylethyl)piperazin-1-yl]methylene}isoquinoline-1,3(2H,4H)-dione | 64 mg, 20% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/N1CCN(CC1)CCN1CCOCC1 | C20H25BrN4O3
